US09079866B2
3′-Fluoro-N-[(1S)-2-hydroxy-1-methylethyl]-4′-(1H-pyrrolo[2,3-b]pyridin-5-yl)biphenyl-2-sulfonamide
The title compound was prepared using methods analogous to those described in Example 376 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine and (S)-2-bromo-N-(1-hydroxypropan-2-yl)benzene-sulfonamide. MS (ESI): mass calcd. for C22H20FN3O3S, 425.12; m/z found, 426.0 [M+H]+. 1H NMR (500 MHz, CDCl3) δ 9.57 (s, 1H), 8.29-8.22 (m, 2H), 7.95-7.85 (m, 1H), 7.69-7.61 (m, 1H), 7.61-7.53 (m, 1H), 7.42-7.33 (m, 4H), 7.29 (d, J=7.8, 1H), 6.54-6.49 (m, 1H), 5.92 (d, J=6.7, 1H), 3.64-3.51 (m, 1H), 3.47-3.34 (m, 2H), 2.34 (s, 1H), 1.03 (d, J=6.5, 3H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=C2C(=NC1)NC=C2 | C19H20BFN2O2
reactant | (S)-2-bromo-N-(1-hydroxypropan-2-yl)benzene-sulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)N[C@H](CO)C | C9H12BrNO3S
product | 3′-Fluoro-N-[(1S)-2-hydroxy-1-methylethyl]-4′-(1H-pyrrolo[2,3-b]pyridin-5-yl)biphenyl-2-sulfonamide | FC=1C=C(C=CC1C=1C=C2C(=NC1)NC=C2)C=2C(=CC=CC2)S(=O)(=O)N[C@H](CO)C | C22H20FN3O3S
